US06353111B1
A solution of triphenylphosphine (8.08 g, 30.8 mmol) in methylene chloride (100 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (5.48 g, 30.8 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of (E)-3-cycloheptyl-2-(4-(methanesulfonyl)-phenyl)-acrylic acid (4.97 g, 15.41 mmol) in methylene chloride (20 mL). The clear solution was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (4.63 g, 46.23 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (250 mL) and a 1N aqueous hydrochloric acid solution (150 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×150 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (1×250 mL) and a saturated aqueous sodium chloride solution (1×200 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 5/1 to 3/2 hexanes/ethyl acetate) afforded (E)-3-cycloheptyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-acrylamide (2.7 g, 43%) as an amorphous solid. This compound was dissolved in acetonitrile (˜55 mL) and stored overnight at 25° C. The solids were collected by filtration and washed with acetonitrile (5 mL) to obtain (E)-3-cycloheptyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-acrylamide (2.1 g, 33%) as a crystalline solid: mp 163-165° C.; EI-HRMS m/e calcd for C20H24N2O3S2 (M+) 404.1253, found 404.1251.

reactant | triphenylphosphine | 30.8 mmol, 8.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 30.8 mmol, 5.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cycloheptyl-2-(4-(methanesulfonyl)-phenyl)-acrylic acid | 15.41 mmol, 4.97 g | C1(CCCCCC1)/C=C(/C(=O)O)\C1=CC=C(C=C1)S(=O)(=O)C | C17H22O4S
reactant | 2-aminothiazole | 46.23 mmol, 4.63 g | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-cycloheptyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-acrylamide | 2.7 g, 43% | C1(CCCCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=CC=C(C=C1)S(=O)(=O)C | C20H24N2O3S2
